US09029487B2
Preparation of Intermediate, 1,3-bis(4-fluoro-2-iodophenoxy)propane, (P8)
To a solution of 15.00 g (63.03 mmol) of 4-fluoro-2-iodophenol (P7), Preparation 7 and 6.40 g (31.68 mmol) of 1,3-dibromopropane in 200 mL of acetone add 26.00 g (188.4 mmol) of potassium carbonate. Reflux the resulting reaction mixture for 24 hours. Cool the reaction mixture to room temperature, filter it, and concentrate the filtrate by rotary evaporation. Crystallize the resulting solid from acetonitrile to yield 12.00 g (74%) of (P8) as a white crystalline solid.

reactant | 4-fluoro-2-iodophenol | 63.03 mmol, 15.00 g | FC1=CC(=C(C=C1)O)I | C6H4FIO
reactant | 1,3-dibromopropane | 31.68 mmol, 6.40 g | BrCCCBr | C3H6Br2
reactant | potassium carbonate | 188.4 mmol, 26.00 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 200 mL | CC(=O)C | C3H6O
product | 1,3-bis(4-fluoro-2-iodophenoxy)propane | FC1=CC(=C(OCCCOC2=C(C=C(C=C2)F)I)C=C1)I | C15H12F2I2O2
